US03965100
2-Amino-3,4-diethylpyridine is prepared by reacting 40.5 g. 3,4-diethylpyridine with 11.7 g sodium amide at a temperature of 250° in the presence of paraffin oil. The so-formed 2-amino-3,4-diethylpyridine is purified by distillation and is substituted for the 2-amino-3,4-dimethylpyridine in Example 7 to obtain the named compound.

reactant | 3,4-diethylpyridine | C(C)C=1C=NC=CC1CC | C9H13N
reactant | sodium amide | 11.7 g | [NH2-].[Na+]
product | 2-Amino-3,4-diethylpyridine | NC1=NC=CC(=C1CC)CC | C9H14N2
